US07915281B2
Pent-4-yn-1-amine hydrochloride (5.48 g, 45.8 mmol) was added to a 6° C. solution of 2,4-dichloro-3-nitroquinoline (10.6 g, 43.6 mmol) and triethylamine (15.2 mL, 109 mmol) in dichloromethane (100 mL). After 30 minutes, the solution was allowed to warm to room temperature. After 5 hours, the volatiles were removed under reduced pressure and the solid residue was triturated with water and isolated by filtration. The filter cake was rinsed with water and toluene and was allowed to dry for several days to yield 2-chloro-3-nitro-N-pent-4-ynylquinolin-4-amine as an orange solid (13.16 g).

reactant | Pent-4-yn-1-amine hydrochloride | 45.8 mmol, 5.48 g | Cl.C(CCC#C)N
reactant | 2,4-dichloro-3-nitroquinoline | 43.6 mmol, 10.6 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 109 mmol, 15.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-chloro-3-nitro-N-pent-4-ynylquinolin-4-amine | 13.16 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCCC#C | C14H12ClN3O2
